US04018922
A solution of 2.7 g of 2-methylheptanoic acid chloride in 10ml of anhydrous benzene was added dropwise at 10° C to a solution of 6.05 g of 2-trifluoromethyl-10-[3-(4-{2-hydroxyethoxy}-4-methyl-piperidino)-propyl]-phenothiazine in 50 ml of anhydrous benzene containing 1.7 g of triethylamine and the mixture was stirred at room temperature for 20 hours. After washing the benzene solution with water, the mixture was stirred for 4 hours with an aqueous solution saturated with sodium bicarbonate and the organic phase was decanted and concentrated.. The oily residue was purified by chromatography over silica gel with a 99-1 cyclohexane-triethylamine mixture as eluant to obtain 6.5 g of 2-trifluoromethyl-10-[3-(4-{2-methyl -2-heptanoyloxyethoxy}-4-methyl-piperidino)-propyl]-phenothiazine in the form of a yellow oil.

reactant | 2-methylheptanoic acid chloride | 2.7 g | CC(C(=O)Cl)CCCCC | C8H15ClO
reactant | 2-trifluoromethyl-10-[3-(4-{2-hydroxyethoxy}-4-methyl-piperidino)-propyl]-phenothiazine | 6.05 g | FC(C1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN1CCC(CC1)(C)OCCO)(F)F | C24H29F3N2O2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | benzene | 10ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml, 1.7 g | C1=CC=CC=C1 | C6H6
product | 2-trifluoromethyl-10-[3-(4-{2-methyl -2-heptanoyloxyethoxy}-4-methyl-piperidino)-propyl]-phenothiazine | 6.5 g | FC(C1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN1CCC(CC1)(C)OCC(OC(CCCCCC)=O)C)(F)F | C32H43F3N2O3S
